US06265411B1
A solution of 6-methoxy-3-((pivaloyloxy)methyl)-7-(2-(pyrrolidin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (524 mg, 1.3 mmol) in methanol saturated with ammonia (10 ml) was stirred for 20 hours at ambient temperature. The volatiles were removed by evaporation and the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (230 mg, 61%).

reactant | 6-methoxy-3-((pivaloyloxy)methyl)-7-(2-(pyrrolidin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 1.3 mmol, 524 mg | COC=1C=C2C(N(C=NC2=CC1OCCN1CCCC1)COC(C(C)(C)C)=O)=O | C21H29N3O5
reactant | ammonia | 10 ml | N | H3N
solvent | methanol | CO | CH4O
product | 6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 230 mg, 61% | COC=1C=C2C(NC=NC2=CC1OCCN1CCCC1)=O | C15H19N3O3
